*********************************************************************************
*										*
*	    ,o888888o.    888888888888.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Cree SiC MOSFET C3M0065090D Spice Library 
****	Version 1.0 Date: 04-06-2017
****	Version 2.0 Date: 02-05-2018
****	Version 3.0 Date: 06-19-2018
***********************************************************
****	Revision record
****	Version 1	Initial Release
****	Version 2	Compactible to both Ltspice and OrCad Pspice
****	Version 3	Update the thermal RC model
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S = Source
***********************************************************

.subckt C3M0065090D d g s Tj Tc 

xgmos	d3 d1 g1 s1 Tj Tc gmos_C3M0065090D

RS		s	sa	3.55993m
Ls 		sa	s1	2.993n
*R_Ls 		sa	s1      5

R_g 		g1	g2	4.7
RG		g	ga	36.09m
Lg 		ga	g3	8.535n
*R_Lg		ga	g3	1000

Rd		d	da	87.42u
Ld 		da	d3      4.366n
R_Ld		da	d3	5

G1		d2	d1      Value {V(d1,s1)}
R_A		d2	d1	1E6
vgate_s		g3	g2	0
vdrain_s	d3	d2	0
Gheat		0	Tj	value = {abs((V(d,s)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
xCGD		d2	g1	cgdmos_C3M0065090D 
CGS		g1	s1	656p
xCds		d2	s1	cdsmos_C3M0065090D
D1		s1	d2	bodydiode_C3M0065090D


R0 N1 Tj 384.6m
R1 N2 N1 202.4m
R2 N3 N2 189m
R3 Tc N3 224.2m
C0 Tj 0 3.3m
C1 N1 0 13.1m
C2 N2 0 107.4m
C3 N3 0 828.9m

.ends C3M0065090D

*****************************************

.subckt gmos_C3M0065090D d3 d1 g1 s1 Tj Tc

e3		NET3	0	Value {0.00001*(V(Tj)**2)-0.00735*V(Tj)+2.5308}
R_C		NET3	0 	1E6

e2		NET2	0	Value {3.571m*(V(gk,s1)**2)-29.57m*V(gk,s1)+0.5206}
R_B		NET2	0 	1E6

e4		NET4	0	Value {-2.6585u*(V(Tj)**2)-454.76u*V(Tj)+183.03m}
R_d		NET4	0 	1E6

e5		NET5	0	value {
+				if(V(gk,s1)>13,
+					-729.76n*(V(Tj)**2)-61.89u*v(Tj)+66.8m   
+					,
+					0
+					)
+					}
R_e		NET5	0 	1E6

e6		NET6	0	value {
+				if(V(gk,s1)>11 & V(gk,s1)<=13,
+					-865.37n*(V(Tj)**2)-90.96u*v(Tj)+97.61m
+					,
+					0
+					)
+					}
R_f		NET6	0 	1E6

e7		NET7	0	value {
+				if(V(gk,s1)>9 & V(gk,s1)<=11,
+					-1.4707u*(V(Tj)**2)-6.622u*v(Tj)+136.08m
+					,
+					0
+					)
+					}
R_g		NET7	0 	1E6

e8		NET8	0	value {
+				if(V(gk,s1)>7 & V(gk,s1)<=9,
+					-4.163u*(V(Tj)**2)+312.6u*v(Tj)+204.79m   
+					,
+					0
+					)
+					}
R_h		NET8	0 	1E6

e9		NET9	0	value {
+				if(V(gk,s1)>v(NET3,0) & V(gk,s1)<=7,
+					-2.768u*(V(Tj)**2)+604.45u*v(Tj)+201.62m    
+					,
+					0
+					)
+					}
R_j		NET9	0 	1E6

.param p8  = 0.0011
.param p11 = -8
.param p12 = 19

R100 gk s1	1E6
E100 gk s1 	value {limit(V(g1,s1),p11,p12)}


********************************
G1 d1 s1 value {
+	if(V(s1,d3)<0,
+		0
+		,
+		if (V(gk,s1)<v(NET3,0) ,
*+		0
+		-((0.035)*(v(gk,s1)-V(NET3,0)))*(-(1+p8*v(s1,d3))*0.008)*(((log(1+exp(v(gk,s1)-V(NET3,0))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3,0)-(0.854*v(s1,d3)))))**2))
+		,
+		-(((v(NET5,0)+v(NET6,0)+v(NET7,0)+v(NET8,0)+v(NET9,0))*(v(gk,s1)-V(NET3,0)))+v(NET4,0))*(1+p8*v(s1,d3))*
+		(((log(1+exp(v(gk,s1)-V(NET3,0))))**2)-((log(1+exp(v(gk,s1)-V(NET3,0)-(V(NET2,0)*v(s1,d3)))))**2))
+		)
+			)
+			}
G2 d1 s1 value {
+	if(V(d3,s1)<0,
+		0
+		,
+		if (V(gk,s1)<v(NET3,0) ,
+		((0.035)*(v(gk,s1)-V(NET3,0)))*(-(1+p8*v(d3,s1))*0.008)*(((log(1+exp(v(gk,s1)-V(NET3,0))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3,0)-(0.854*v(d3,s1)))))**2))
+		,
+		(((v(NET5,0)+v(NET6,0)+v(NET7,0)+v(NET8,0)+v(NET9,0))*(v(gk,s1)-V(NET3,0))))*(1+p8*v(d3,s1))*
+		(((log(1+exp(v(gk,s1)-V(NET3,0))))**2)-((log(1+exp(v(gk,s1)-V(NET3,0)-(V(NET2,0)*v(d3,s1)))))**2))
+		)
+			)
+			}

.ends gmos_C3M0065090D

****************************************
.model bodydiode_C3M0065090D d(is=145.99n bv=1160 EG=6.72827 n=10.4 
+	rs=0.043  trs1=0.000281895  trs2=-8.41479u Tnom=25
+	tt=7n ibv=500u Xti=0.13 level=1)
****************************************

.subckt cgdmos_C3M0065090D d2 g1
.param k1=135p	
.param k2=0.35		
.param ka=40	
.param kb=0.4	
.param kc=6.5277	
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d2,g1),0,570))*(1+ka*(1+TANH(kb*V(d2,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d2))
+			}
R_CGD d1 d2 1e-4
.ends cgdmos_C3M0065090D


.subckt cdsmos_C3M0065090D d3 s1
.param Cjo = 999.24p
.param Vj  = 7.7708436
.param M   = 0.6600636575
   
G12 d1 s1 value {
+	if(V(d3,s1)>0,
+		(Cjo/(1+((limit(ABS(v(d3,s1)),0,580))/Vj))**M)*ddt(v(d3,s1))
+		,
+		0
+			)
+			}

R_CDS d1 d3 1e-4
.ends cdsmos_C3M0065090D









